US07402598B2
v) 3-{4-[(6-{[(2R)-2-(3-Fluoro-4-hydroxyphenyl)-2-hydroxyethyl]amino}hexyl)oxy]butyl}benzenesulfonamide formate
A stirred solution of 4-[(1R)-2-amino-1-hydroxyethyl]-2-fluorophenol (45 mg), diisopropylethylamine (0.06 ml) and 3-{4-[(6-bromohexyl)oxy]butyl}benzenesulfonamide (86 mg) in N,N-dimethylformamide (1 ml) under nitrogen was heated to 50° for 18 h. The mixture was cooled to 20°, the solvent evaporated in vacuo and the residue purified by mass-directed autopreparative HPLC to give the title compound (36 mg). LCMS RT=2.37 min, ES+ve 483 (MH)+.

reactant | 4-[(1R)-2-amino-1-hydroxyethyl]-2-fluorophenol | 45 mg | NC[C@H](O)C1=CC(=C(C=C1)O)F | C8H10FNO2
reactant | diisopropylethylamine | 0.06 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-{4-[(6-bromohexyl)oxy]butyl}benzenesulfonamide | 86 mg | BrCCCCCCOCCCCC=1C=C(C=CC1)S(=O)(=O)N | C16H26BrNO3S
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-{4-[(6-{[(2R)-2-(3-Fluoro-4-hydroxyphenyl)-2-hydroxyethyl]amino}hexyl)oxy]butyl}benzenesulfonamide formate | 36 mg | C(=O)O.FC=1C=C(C=CC1O)[C@H](CNCCCCCCOCCCCC=1C=C(C=CC1)S(=O)(=O)N)O | InChI=1S/C24H35FN2O5S.CH2O2/c25-22-17-20(11-12-23(22)28)24(29)18-27-13-4-1-2-5-14-32-15-6-3-8-19-9-7-10-21(16-19)33(26,30)31;2-1-3/h7,9-12,16-17,24,27-29H,1-6,8,13-15,18H2,(H2,26,30,31);1H,(H,2,3)/t24-;/m0./s1
